US07910595B2
A mixture of 4-chloro-3-nitrobenzoic acid was reacted with hydroquinone to produce 4-(4-Hydroxy-phenoxy)-3-nitro-benzoic acid according to the procedure of Example 37A, which was treated sequentially with 3-Bromo-phenylamine using the procedure from Example 37B and reduced using the procedure from Example 37C to provide the title product.

reactant | 4-chloro-3-nitrobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 4-(4-Hydroxy-phenoxy)-3-nitro-benzoic acid | OC1=CC=C(OC2=C(C=C(C(=O)O)C=C2)[N+](=O)[O-])C=C1 | C13H9NO6
